US04609730
To a solution of benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate (syn isomer) (1 g) in methanol (5 ml) was added conc. hydrochloric acid (0.5 ml) and the resulting mixture was stirred at ambient temperature for 2 hours. Then, the reaction mixture was poured into ice-water and adJusted to pH 3.5 with a saturated aqueous solution of sodium bicarbonate. The precipitate was collected by filtration, dried and dissolved in a mixture of trifluoroacetic acid (5 ml) and anisole (0.5 ml) at ambient temperature. After trifluoroacetic acid was evaporated in vacuo, the residue was added to a mixture of ethyl acetate and water and adJusted to pH 3.0 with a saturated aqueous solution of sodium bicarbonate. The separated organic layer was evaporated to give 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(2,2-dibromovinyl)-3-cephem-4-carboxylic acid (syn isomer) (0.35 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate | 1 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C(Br)Br)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C29H23Br2N5O6S2
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(2,2-dibromovinyl)-3-cephem-4-carboxylic acid | 0.35 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C(Br)Br)C(=O)O)C1=O)C=1N=C(SC1)N | C15H13Br2N5O5S2
